US05073559
A stirred mixture of 5-chloro-2-hydroxybenzamide (20 g), 1-bromopropane (13.4 ml), potassium iodide (2.49 g) and anhydrous potassium carbonate (24.15 g) in acetone (250 ml) was heated under reflux for 20 hours. The cooled reaction mixture was filtered and the filter cake was washed with acetone. The filtrate and washings were combined and evaporated under reduced pressure to yield a residue which was washed with water, dilute aqueous sodium hydroxide, water and with diethyl ether to yield a crude product (19.85 g). This was recrystallised from acetonitrile, partitioned between chloroform and dilute aqueous sodium hydroxide, and was recrystallised from ethanol to yield 5-chloro-2-propoxybenzamide (16.78 g).

reactant | 5-chloro-2-hydroxybenzamide | 20 g | ClC=1C=CC(=C(C(=O)N)C1)O | C7H6ClNO2
reactant | 1-bromopropane | 13.4 ml | BrCCC | C3H7Br
reactant | potassium iodide | 2.49 g | [I-].[K+]
reactant | potassium carbonate | 24.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 5-chloro-2-propoxybenzamide | 16.78 g | ClC=1C=CC(=C(C(=O)N)C1)OCCC | C10H12ClNO2
